US09428510B2
77 ml (77 mmol) of 1 M hydrochloric acid solution is added to 7.7 g (25.6 mmol) of N′-(3-cyano-5-iodopyrazin-2-yl)-N,N-dimethylformimidamide. The reaction medium is heated at 50° C. for 4 hours and then stirred at room temperature overnight. The precipitate formed is filtered, rinsed with water and dried at 50° C. to yield 6 g (95%) of 3-amino-6-iodopyrazine-2-carbonitrile in the form of a beige solid.

reactant | hydrochloric acid | 77 mmol, 1 M, 77 ml | Cl | ClH
reactant | N′-(3-cyano-5-iodopyrazin-2-yl)-N,N-dimethylformimidamide | 25.6 mmol, 7.7 g | C(#N)C=1C(=NC=C(N1)I)N=CN(C)C | C8H8IN5
product | 3-amino-6-iodopyrazine-2-carbonitrile | 6 g, 95% | NC=1C(=NC(=CN1)I)C#N | C5H3IN4
